US04507294
A solution of 14.2 g 2-methyl-8-phenylmethoxyimidazo[1,2-a]pyrazine, 129.3 g n-butyl nitrite and 142 ml p-dioxane was heated under reflux for 0.5 hr. and decanted from a small amount of gum. The supernatant solution was stirred under vacuum (40°/0.1 mm) and the residue azeotroped with cyclohexane to give 2-methyl-3-nitroso-8-phenylmethoxyimidazo[1,2-a]pyrazine as a soft, green solid which was identified by pmr and ms and immediately reduced (as in Example 6) without further purification.

reactant | 2-methyl-8-phenylmethoxyimidazo[1,2-a]pyrazine | 14.2 g | CC=1N=C2N(C=CN=C2OCC2=CC=CC=C2)C1 | C14H13N3O
reactant | n-butyl nitrite | 129.3 g | N(=O)OCCCC | C4H9NO2
solvent | p-dioxane | 142 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-3-nitroso-8-phenylmethoxyimidazo[1,2-a]pyrazine | CC=1N=C2N(C=CN=C2OCC2=CC=CC=C2)C1N=O | C14H12N4O2
